US07906511B2
2-Amino-4-methanesulfonyloxymethylpyrimidine (Reference Compound No. 8-1)
N,N-Diisopropylethylamine (490 μL, 2.9 mmol) and methanesulfonyl chloride (110 μL, 1.5 mmol) were added to a suspension of 2-amino-4-hydroxymethylpyrimidine (170 mg, 1.3 mmol, Reference Compound No. 4-1) in anhydrous tetrahydrofuran (5.0 mL) under ice-cooling, and the mixture was stirred for 7 hours at room temperature. The reaction mixture was diluted with ethyl acetate (300 mL), washed with water (300 mL), and then dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, the precipitated solid was filtered off with ethyl acetate, and dried under reduced pressure to give 140 mg of the title Reference Compound as a white solid (Yield: 53%).

reactant | N,N-Diisopropylethylamine | 2.9 mmol, 490 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | methanesulfonyl chloride | 1.5 mmol, 110 μL | CS(=O)(=O)Cl | CH3ClO2S
reactant | 2-amino-4-hydroxymethylpyrimidine | NC1=NC=CC(=N1)CO | C5H7N3O
solvent | tetrahydrofuran | 5.0 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
product | 2-Amino-4-methanesulfonyloxymethylpyrimidine | Yield: 53% | NC1=NC=CC(=N1)COS(=O)(=O)C | C6H9N3O3S
